US07514460B2
(6,7-Dimethoxyquinazolin-4-yl)-(6-nitrobenzothiazol-2-yl)amine was prepared from 2-amino-6-nitrobenzothiazole (Sigma-Aldrich, 976 mg, 5 mmol) and 4-chloro-6,7-di-methoxyquinazoline (Fluorochem, 1.12 g, 5 mmol) according to GP 1. After filtration, the residue was washed thoroughly with dioxane, water and methanol. After drying in vacuo, crude (6,7-dimethoxy-quinazolin-4-yl)-(6-nitrobenzothiazol-2-yl)amine was obtained as an ochre solid (2.25 g) which was used without further purification. LC/ESI-MS: m/z=384 [M+H]+; m/z=382 [M−H]−; Rt=3.67 min.

reactant | 2-amino-6-nitrobenzothiazole | 5 mmol, 976 mg | NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H5N3O2S
reactant | 4-chloro-6,7-di-methoxyquinazoline | 5 mmol, 1.12 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
product | (6,7-dimethoxy-quinazolin-4-yl)-(6-nitrobenzothiazol-2-yl)amine | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C17H13N5O4S
